US09193710B2
Tert-butyl 4-iodo-2-nitrophenylcarbamate
The title compound was prepared from the commercially available 4-iodo-2-nitroaniline [CAS-No. 20691-72-9] (2.0 g, 8 mmol) and Boc2O (2.0 g, 9 mmol) according to the general procedure A. Obtained as a yellow solid (1.5 g, 50%), MS (EI) 365 [(M+1)+] and 309 {[(M-C(CH3)3]+}.

reactant | 4-iodo-2-nitroaniline | 8 mmol, 2.0 g | IC1=CC(=C(N)C=C1)[N+](=O)[O-] | C6H5IN2O2
reactant | Boc2O | 9 mmol, 2.0 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
product | Tert-butyl 4-iodo-2-nitrophenylcarbamate | IC1=CC(=C(C=C1)NC(OC(C)(C)C)=O)[N+](=O)[O-] | C11H13IN2O4
